US06063782
Methyl 1-(3-fluoropropyl)-3-formyl-4,5-dimethylpyrrole-2-carboxylate
The title compound was prepared as pale yellow crystals in 90.89% yeild in a similar procedure to that described in Referential Example 9 by using methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate and 1-bromo-3-fluoropropane.

reactant | methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate | C(=O)C1=C(NC(=C1C)C)C(=O)OC | C9H11NO3
reactant | 1-bromo-3-fluoropropane | BrCCCF | C3H6BrF
product | Methyl 1-(3-fluoropropyl)-3-formyl-4,5-dimethylpyrrole-2-carboxylate | FCCCN1C(=C(C(=C1C)C)C=O)C(=O)OC | C12H16FNO3
